US09120749B2
1-(6-Bromo-4-chloroquinolin-3-yl)ethanone
1-(6-Bromo-4-hydroxyquinolin-3-yl)ethanone (2.2 g, 8.27 mmol) was suspended in phosphoryl chloride (30 mL) and the reaction was heated to 85° C. and stirred for 3 h. After this time the reaction mixture was cooled to room temperature and slowly poured into a 2:1 solution of satd. aq. sodium bicarbonate/ethyl acetate that was cooled to 0° C. The organic layer was separated, washed with satd. aq. sodium bicarbonate, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by column chromatography to afford the desired product (710 mg, 72%) as a light brown solid: ESI MS m/z 280 [C11H7BrClNO+H]+.

reactant | 1-(6-Bromo-4-hydroxyquinolin-3-yl)ethanone | 8.27 mmol, 2.2 g | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)O | C11H8BrNO2
reactant | sodium bicarbonate ethyl acetate | C([O-])(O)=O.[Na+].C(C)(=O)OCC
reactant | phosphoryl chloride | 30 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-(6-Bromo-4-chloroquinolin-3-yl)ethanone | 710 mg, 72% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
